US07902248B2
(E)-(3-Chloro-4-methanesulfonyl-phenyl)-cyclohexyloxyimino-acetic acid methyl ester (487 mg, 1.30 mmol) was dissolved in methanol (14 mL) and cooled to 0° C. A 2.0 N aqueous solution of lithium hydroxide (1.95 mL, 3.90 mmol) was added dropwise and the cooling bath was removed. After stirring 1 h, the reaction mixture was diluted with chloroform (175 mL) and washed with 0.2 M aqueous potassium bisulfate solution (50 mL). The aqueous phase was extracted with chloroform (75 mL) and the combined organic phases were dried over magnesium sulfate and evaporated in vacuo to afford (E)-(3-chloro-4-methanesulfonyl-phenyl)-cyclohexyloxyimino-acetic acid (458 mg, 98%) as a white foam that was used without further purification.

reactant | (E)-(3-Chloro-4-methanesulfonyl-phenyl)-cyclohexyloxyimino-acetic acid methyl ester | 1.30 mmol, 487 mg | COC(/C(=N/OC1CCCCC1)/C1=CC(=C(C=C1)S(=O)(=O)C)Cl)=O | C16H20ClNO5S
reactant | lithium hydroxide | 3.90 mmol, 1.95 mL | [OH-].[Li+]
solvent | methanol | 14 mL | CO | CH4O
product | (E)-(3-chloro-4-methanesulfonyl-phenyl)-cyclohexyloxyimino-acetic acid | 458 mg, 98% | ClC=1C=C(C=CC1S(=O)(=O)C)\C(\C(=O)O)=N/OC1CCCCC1 | C15H18ClNO5S
